US08791107B2
PREPARATION x9: 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 580 mg, 2.56 mmol) was dissolved in DMSO (20 mL). Sodium tert-butoxide (295 mg, 3.07 mmol) was added, followed by 1-(bromomethyl)-4-(methylsulfonyl)benzene (669 mg, 2.69 mmol) to give a brown solution. The reaction mixture was stirred overnight at room temperature. The reaction mixture was quenched with aqueous saturated NH4Cl, diluted with ethyl acetate, and washed with aqueous saturated NH4Cl (3×20 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated. The crude product was loaded onto an ISCO® silica gel cartridge (40 g) and eluted using an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a yellow solid (403 mg, 40%). ESI-MS m/z [M+H]+ calc'd for C17H19ClN4O3S, 395.09. found 395.4.

reactant | 2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 2.56 mmol, 580 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | Sodium tert-butoxide | 3.07 mmol, 295 mg | CC(C)([O-])C.[Na+]
reactant | 1-(bromomethyl)-4-(methylsulfonyl)benzene | 2.69 mmol, 669 mg | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 403 mg, 40% | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
